US05824691
10% Palladium-carbon (2.5 g) was added to a mixture of methyl 4-chloro-3-methylsulfonyl-5-nitrobenzoate (9.5 g) and triethylamine (5.0 ml) in methanol (150 ml) and tetrahydrofuran (100 ml), and the mixture was subjected to catalytic reduction at ambient temperature under atmospheric pressure. The catalyst was removed by filtration and the filtrate was evaporated in vacuo. To the residue was added a mixture of ethyl acetate and water, and adjusted to pH 9 with 20% aqueous potassium carbonate solution. The separated organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with diisopropyl ether to give methyl 5-amino-3-methylsulfonylbenzoate (5.85 g).

reactant | methyl 4-chloro-3-methylsulfonyl-5-nitrobenzoate | 9.5 g | ClC1=C(C=C(C(=O)OC)C=C1[N+](=O)[O-])S(=O)(=O)C | C9H8ClNO6S
reactant | triethylamine | 5.0 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 150 ml | CO | CH4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | Palladium-carbon | 2.5 g | [C].[Pd]
product | methyl 5-amino-3-methylsulfonylbenzoate | 5.85 g | NC=1C=C(C=C(C(=O)OC)C1)S(=O)(=O)C | C9H11NO4S
